US05840898
A 4-necked 5-L round-bottom flask is equipped with a mechanical stirrer and 250-mL addition funnel. Under nitrogen, the flask is charged with 7-chloro-9-chloromethyl-2,3-dihydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester (340 g, 1.04 mol), prepared as in example 13c, and methylene chloride (2 L). To the stirred solution is added N-methylpiperazine (237 mL, 2.14 mol) over 10 min. After the addition is complete, the reaction mixture is stirred at ambient temperature for 15 h. The reaction mixture is poured into water (3 L) and the organic layer is separated. The aqueous layer is extracted with methylene chloride (3×2 L). The combined organic layers are washed with brine (2 L), dried over anhydrous sodium sulfate and concentrated in vacuo. The resultant thick brown slurry is successively treated with methylene chloride (300 mL) and hexane (1.5 L). The mixture is swirled at 0° C. for 30 min. The precipitate is collected on a Buchner funnel, washed with hexane (1 L) and dried in vacuo. at 30° C. yielding [7-chloro-9-(4-methyl-piperazin-1-yl-methyl)-2,3-dihydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester as a yellow powder: mp 143° C. 1H NMR (CDCl3, 200 MHz) δ2.28 (s, 3H), 2.38-2.49 (m, 8H), 3.81 (s, 2H), 3.96 (s, 3H), 4.59 (s, 2H), 4.40 (s, 4H), 7.45 (s, 1H), 7.65 (s, 1H). Elemental analysis: Calculated for C19 H22ClN3O4 : C 58.24, H 5.66, N 10.72. Found: C 58.08, H 5.72, N 10.63.

reactant | 7-chloro-9-chloromethyl-2,3-dihydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester | 1.04 mol, 340 g | COC(=O)C=1C(=NC=2C=C3C(=CC2C1CCl)OCCO3)Cl | C14H11Cl2NO4
reactant | methylene chloride | 2 L | C(Cl)Cl | CH2Cl2
reactant | N-methylpiperazine | 2.14 mol, 237 mL | CN1CCNCC1 | C5H12N2
solvent | water | 3 L | O | H2O
product | 7-chloro-9-(4-methyl-piperazin-1-yl-methyl)-2,3-dihydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester | COC(=O)C=1C(=NC=2C=C3C(=CC2C1CN1CCN(CC1)C)OCCO3)Cl | C19H22ClN3O4
